### PR TITLE
Proofs that some polynomial functors are omega cocontinuous and add lists over sets

### PR DESCRIPTION
**Pull request by mortberg**

### CODE REVIEW

**Comment by vladimirias** [comment]
I think if you really need lists you should prove a theorem that establishes a weq between the lists that you have defined and lists defined as total2 ( fun n : nat => iterprod n A ) where iterprod n A is defined by induction such that iterprod 0 A = unit,  iterprod 1 A = A and iterprod ( S n ) A = dirprod (iterprod n A) A for n=S n’.

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 1]
```diff
@@ -0,0 +1,382 @@
...
+Section polynomial_functors.
+
+Variables (C : precategory) (hsC : has_homsets C).
+
+(* The constant functor is omega cocontinuous *)
+Section constant_functor.
+
+Variable (x : C).
+
+Lemma omega_cocontConstantFunctor : omega_cocont (constant_functor C C x).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: This should be just as easy to prove for a functor that is not endo.

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 2]
```diff
@@ -0,0 +1,382 @@
...
+intros c L ccL HcL.
+apply (preserves_colimit_identity hsC _ _ _ HcL).
+Defined.
+
+End identity_functor.
+
+(* Functor composition preserves omega cocontinuity *)
+Section functor_comp.
+
+Lemma omega_cocontFunctorComposite (F G : functor C C) :
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: How about proving this for F : C -> D and G : D -> E ?

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 3]
```diff
@@ -0,0 +1,382 @@
...
+Definition constprod_functor : functor HSET HSET :=
+  product_functor HSET HSET ProductsHSET (constant_functor HSET HSET x)
+                                         (functor_identity HSET).
+
+Definition flip {A B C : UU} (f : A -> B -> C) : B -> A -> C := fun x y => f y x.
+
+Lemma omega_cocontConstProdFunctor : omega_cocont constprod_functor.
+Proof.
+intros hF c L ccL HcL cc.
+destruct cc as [f hf]; simpl in *; unfold product_functor_ob in *; simpl in *.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: We don't want to destruct pairs!

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 4]
```diff
@@ -0,0 +1,382 @@
...
+
+Variables (x : HSET).
+
+Definition constprod_functor : functor HSET HSET :=
+  product_functor HSET HSET ProductsHSET (constant_functor HSET HSET x)
+                                         (functor_identity HSET).
+
+Definition flip {A B C : UU} (f : A -> B -> C) : B -> A -> C := fun x y => f y x.
+
+Lemma omega_cocontConstProdFunctor : omega_cocont constprod_functor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: Opacification of this proof seems crucial, though I have no data to support this statement.

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 5]
```diff
@@ -0,0 +1,382 @@
...
+
+Variable (x : C).
+
+Lemma omega_cocontConstantFunctor : omega_cocont (constant_functor C C x).
+Proof.
+intros c L ccL HcL y ccy; simpl.
+simple refine (tpair _ _ _).
+- simple refine (tpair _ _ _).
+  + apply (coconeIn ccy 0).
+  + simpl; intro n; rewrite id_left.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: Opacify from here on, at least.

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 6]
```diff
@@ -0,0 +1,382 @@
...
+
+Variables (x : C) (PC : Coproducts C).
+
+Definition constcoprod_functor : functor C C :=
+  coproduct_functor C C PC (constant_functor C C x) (functor_identity C).
+
+Lemma omega_cocontConstCoprodFunctor : omega_cocont constcoprod_functor.
+Proof.
+intros hF c L ccL HcL cc.
+destruct cc as [f hf]; simpl in *; unfold coproduct_functor_ob in *; simpl in *.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: Again, we remember what we have learned from #286 .

File: UniMath/CategoryTheory/colimits/polynomialfunctors.v [hunk 7]
```diff
@@ -0,0 +1,382 @@
...
+(* The functor "x + F" is omega_cocont.
+   Assumes that the category has coproducts *)
+Section constcoprod_functor.
+
+Variables (x : C) (PC : Coproducts C).
+
+Definition constcoprod_functor : functor C C :=
+  coproduct_functor C C PC (constant_functor C C x) (functor_identity C).
+
+Lemma omega_cocontConstCoprodFunctor : omega_cocont constcoprod_functor.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/colimits/polynomialfunctors.v]: Opacify!

**Comment by DanGrayson** [comment]
lgtm
